US06756372B2
(c) 3-Amino-3-cyano-1-cyclopropyl-pyrrolidine
1-Cyclopropylmethyl-pyrrolidin-3-one (6.1 g, 44 mmol, 1.0 equiv), NaCN (2.4 g, 48 mmol, 1.1 equiv) and NH4Cl (2.6 g, 48 mmol, 1.1 equiv) were mixed in 88 mL of 2 M NH3 in MeOH, and the resulting mixture was refluxed for 2 h at which time another 88 mL of 2 M NH3 in MeOH was added followed by another 2 h at reflux. The reaction mixture was cooled, filtered, concentrated, and taken up in 100 mL of CH2Cl2. The mixture was filtered a second time and concentrated to a red oil (5.9 g) which was used without further purification.

reactant | 1-Cyclopropylmethyl-pyrrolidin-3-one | 44 mmol, 6.1 g, 1.0 equiv | C1(CC1)CN1CC(CC1)=O | C8H13NO
reactant | NaCN | 48 mmol, 2.4 g, 1.1 equiv | [C-]#N.[Na+]
reactant | NH4Cl | 48 mmol, 2.6 g, 1.1 equiv | [NH4+].[Cl-]
solvent | NH3 | 2 M, 88 mL | N | H3N
solvent | MeOH | CO | CH4O
solvent | NH3 | 2 M, 88 mL | N | H3N
product | 3-Amino-3-cyano-1-cyclopropyl-pyrrolidine | NC1(CN(CC1)C1CC1)C#N | C8H13N3
